US04816591
A mixture of 5.7 g. of methyl 6,11-dihydro-11-hydroxydibenz[b,e]oxepin-2-acetate, 5 ml. of acetyl bromide and 60 ml. of dry benzene is refluxed for two hours. Evaporation in vacuo provides methyl 6,11-dihydro-11-bromodibenz[b,e]oxepin-2-acetate as a yellow oil.

reactant | methyl 6,11-dihydro-11-hydroxydibenz[b,e]oxepin-2-acetate | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OC | C17H16O4
reactant | acetyl bromide | C(C)(=O)Br | C2H3BrO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 6,11-dihydro-11-bromodibenz[b,e]oxepin-2-acetate | BrC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OC | C17H15BrO3
